US05679696
A stirred suspension of 3-hydroxy-4-methoxybenzaldehyde (50 g) in water (200 mL) at between 0° and 5° C. is treated dropwise with an aqueous solution of sodium hydroxide (200 mL; 20% w/v), followed at between 0° and 5° C. by benzoyl chloride (38 mL). The reaction mixture is stirred at between 0° and 5° C. for 1 hour and then it is allowed to warm to room temperature and is stirred for a further period of 2 hours. The resulting solution is extracted with dichloromethane (2×200 mL) and the combined extract is washed with water (200 mL), dried over magnesium sulfate and concentrated, to give 2-methoxy-5-formylphenyl benzoate (35.2 g), m.p. 70°-72° C.

reactant | 3-hydroxy-4-methoxybenzaldehyde | 50 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | sodium hydroxide | 200 mL | [OH-].[Na+]
reactant | benzoyl chloride | 38 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 200 mL | O | H2O
product | 2-methoxy-5-formylphenyl benzoate | 35.2 g | C(C1=CC=CC=C1)(=O)OC1=C(C=CC(=C1)C=O)OC | C15H12O4
